* C:\UP\Study\CMOS Diff Amp\DifferentialAmplifier.asc
* Generated by LTspice 24.1.9 for Windows.
I1 0 N008 50µ
VDD N001 0 1.8
V1 N005 N011 SINE(0 4m 1k) AC 1
V2 N006 N012 SINE(0 4m 1k 0 0 180) AC 0
V3 N011 0 1.2
V4 N012 0 1.2
C1 Output 0 10p
M00 N008 N008 0 N009 CMOSN l=1u w=6u
M0 N007 N008 0 N010 CMOSN l=1u w=6u
M1 N002 N005 N007 0 CMOSN l=1u w=9u
M2 Output N006 N007 0 CMOSN l=1u w=9u
M3 N002 N002 N001 N003 CMOSP l=1u w=17u
M4 N001 N002 Output N004 CMOSP l=1u w=17u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\asus\AppData\Local\LTspice\lib\cmp\standard.mos
.INCLUDE C:\Users\asus\Documents\LTspice\lib\sub\tsmc018.lib
.tran 10m
* .ac dec 100 10 20meg
.backanno
.end
